* RUL035N02 NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2011/03/30
******************D G S
.SUBCKT RUL035N02 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 14.6m
D2       22 11 DDG
R2        2 22 15
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=83.006E-6
+ RS=10.000E-3
+ RD=0
+ VTO=.90034
+ RDS=20.000E6
+ TOX=2.0000E-6
+ CGSO=370p
+ CGDO=40p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=0.4
+ ETA=0.001
+ KAPPA=0
+ NFS=7G
.MODEL DDS D
+ IS=756.67E-12
+ N=1.3246
+ RS=2.3022E-3
+ IKF=.74389
+ CJO=92.278E-12
+ M=.23133
+ VJ=.76107
+ BV=20
+ TT=34n
.MODEL DDG D
+ CJO=228.75E-12
+ M=.91723
+ VJ=.7547
+ N=10000
+ FC=-0.4
.MODEL RTH RES
+ TC1=0.011
+ TC2=0.00002
.ENDS RUL035N02
